US07888364B2
500 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(bromomethyl)benzoic acid via Procedure E. 170 mg of 4-(bromomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide was reacted with 2-(dimethylamino)ethanethiol hydrochloride via Procedure Q. 140 mg of crude N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2-(dimethylamino)ethylthio)methyl)benzamide was reacted with oxone via Procedure R. The crude product was purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2-(dimethylamino)ethylsulfonyl)methyl)benzamide. MS (Q1) 458.3 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 500 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(bromomethyl)benzoic acid | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | 4-(bromomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | 170 mg | BrCC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C19H14BrClN2O
reactant | 2-(dimethylamino)ethanethiol hydrochloride | Cl.CN(CCS)C
reactant | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2-(dimethylamino)ethylthio)methyl)benzamide | 140 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CSCCN(C)C)=O)C1=NC=CC=C1 | C23H24ClN3OS
reactant | oxone | OOS(=O)[O-].[K+]
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2-(dimethylamino)ethylsulfonyl)methyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CS(=O)(=O)CCN(C)C)=O)C1=NC=CC=C1 | C23H24ClN3O3S
